US06387942B2
A mixture of 4-benzoylbenzoic acid (20 g, 88.4 mmole), toluene (5 mL), p-toluenesulfonic acid (1 g) and ethanol (20 mL) was refluxed for 12 hours, cooled, washed with 5% sodium carbonate, and neutralized by water wash. The organic layer was dried over anhydrous magnesium sulfate and concentrated to obtain 22 g ethyl 4-benzoylbenzoate in a yield 90.5%.

reactant | 4-benzoylbenzoic acid | 88.4 mmole, 20 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)O)C=C1 | C14H10O3
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | ethyl 4-benzoylbenzoate | 22 g, yield 90.5% | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)OCC)C=C1 | C16H14O3
